US09422271B2
A mixture of 5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)-N-tert-butylthiophene-2-sulfonamide (497.4 mg, 1.0 mmol, 1.0 eq), Pd(PPh3)2Cl2 (28.0 mg, 0.1 mmol, 0.1 eq) and Bu4NBr (321.1 mg, 0.1 mmol, 1.0 equiv.) was flushed with nitrogen. Anhydrous dioxane (10 mL) was added and the reaction mixture was flushed with nitrogen. (Z)-tributyl(prop-1-enyl)stannane (475.4 mg, 1.5 mmol, 1.5 eq) was added and the reaction mixture was stirred at rt for 2 h. The mixture was extracted with EtOAc and washed with water, brine. The organic layers were concentrated to afford the residue, which was purified by silica gel chromatography (PE/EA/MeOH=2:1:0.06 as eluant) to afford (Z)—N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-(prop-1-enyl)pyrimidin-2-yl)thiophene-2-sulfonamide (375.6 mg, 82.1%) as white solid. LC-MS (m/z)=459 [M+H]+.

reactant | 5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)-N-tert-butylthiophene-2-sulfonamide | 1.0 mmol, 497.4 mg, 1.0 eq | BrC=1C(=NC(=NC1)C1=CC=C(S1)S(=O)(=O)NC(C)(C)C)NC1=NNC(=C1)C1CC1 | C18H21BrN6O2S2
reactant | (Z)-tributyl(prop-1-enyl)stannane | 1.5 mmol, 475.4 mg, 1.5 eq | C(CCC)[Sn](\C=C/C)(CCCC)CCCC
catalyst | Bu4NBr | 0.1 mmol, 321.1 mg, 1.0 equiv. | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
catalyst | Pd(PPh3)2Cl2 | 0.1 mmol, 28.0 mg, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (Z)—N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-(prop-1-enyl)pyrimidin-2-yl)thiophene-2-sulfonamide | 375.6 mg, 82.1% | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)\C=C/C | C21H26N6O2S2
